US07893085B2
3-(2-Fluoro-4-methylsulfanyl-phenylamino)-thieno[3,2-c]pyridine -2-carboxylic acid (2-hydroxy-ethoxy)-amide
3-(2-Fluoro-4-methylsulfanyl-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide (20 mg, 0.048 mmol) was dissolved in methanol (1 ml) and treated with concentrated hydrochloric acid (0.01 ml, 0.12 mmol) before being stirred at room temperature for 2 hours. The reaction mixture was concentrated in vacuo and the resultant residue subjected to reverse phase HPLC (0.1% HCO2H in water on a gradient of acetonitrile). The appropriate fractions were combined and freeze-dried to give the title compound (9 mg, 47%). LCMS (method A): RT=6.36 min, M+H+ 394; 1H NMR (DMSO-d6, 400 MHz) 3.58 (2H, t, J=4.89 Hz), 3.84 (2H, t, J=4.91 Hz), 6.89 (1H, t, J=8.76 Hz), 6.98 (1H, dd, J=8.41, 2.15 Hz), 7.21-7.26 (1H, m), 8.02 (1H, d, J=5.61 Hz), 8.45 (1H, dd, J=8.25, 5.61 Hz), 8.53-8.59 (1H, m).

reactant | 3-(2-Fluoro-4-methylsulfanyl-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide | 0.048 mmol, 20 mg | C(=C)OCCONC(=O)C1=C(C=2C=NC=CC2S1)NC1=C(C=C(C=C1)SC)F | C19H18FN3O3S2
reactant | hydrochloric acid | 0.12 mmol, 0.01 ml | Cl | ClH
solvent | methanol | 1 ml | CO | CH4O
product | 3-(2-Fluoro-4-methylsulfanyl-phenylamino)-thieno[3,2-c]pyridine -2-carboxylic acid (2-hydroxy-ethoxy)-amide | 9 mg, 47% | OCCONC(=O)C1=C(C=2C=NC=CC2S1)NC1=C(C=C(C=C1)SC)F | C17H16FN3O3S2
